US04727081
N,N-Dimethyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarboxamide
0.6 ml (4 mmol) of triethylamine and 0.4 ml (4 mmol) of N,N-dimethyl-carbamide chloride are added to 1.2 g (4 mmol) of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carboxamide in 20 ml of ether and the reaction mixture is stirred for 12 hours. Solid triethylammonium chloride is filtered off and the filtrate is concentrated by evaporation under vacuum.

reactant | triethylamine | 4 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carboxamide | 4 mmol, 1.2 g | N1(CCCCC1)CC=1C=C(OCCCNC(=O)NN)C=CC1 | C16H26N4O2
reactant | ether | 20 ml | CCOCC | C4H10O
product | N,N-Dimethyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarboxamide | CN(C(=O)NNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C | C19H31N5O3
